US07977351B2
2-[3-(3-Hydroxy-piperidin-1-yl)-propyl]-7H-furo[3,4-b]pyridin-5-one
In a process similar to that described in Preparation 8, 3-(5-Oxo-5,7-dihydro-furo[3,4-b]pyridin-2-yl)-propionaldehyde (76 mg, 0.4 mmol) and 3-hydroxypiperidine (41 mg, 0.4 mmol) are reacted to provide the title compound as a white solid (82 mg, 74%).

reactant | 3-(5-Oxo-5,7-dihydro-furo[3,4-b]pyridin-2-yl)-propionaldehyde | 0.4 mmol, 76 mg | O=C1OCC2=NC(=CC=C21)CCC=O | C10H9NO3
reactant | 3-hydroxypiperidine | 0.4 mmol, 41 mg | OC1CNCCC1 | C5H11NO
product | 2-[3-(3-Hydroxy-piperidin-1-yl)-propyl]-7H-furo[3,4-b]pyridin-5-one | 82 mg, 74% | OC1CN(CCC1)CCCC1=CC=C2C(=N1)COC2=O | C15H20N2O3
